resistor_cube - fault test
V1 n7 0 DC 12
R1 0 n1 1.000144
R2 0 n2 0.999215
R3 0 n4 0.986783
R4 n1 n3 0.983213
R5 n1 n5 0.996038
R6 n2 n3 0.999497
R7 n2 n6 0.98148
R8 n3 n7 1.002183
R9 n4 n5 0.981217
R10 n4 n6 1.010111
R11 n5 n7 1.000296
R12 n6 n7 1.016801
.op
.control
run
print v(n1) v(n2) v(n3) v(n4) v(n5) v(n6) v(n7)
print @r1[i] @r2[i] @r3[i] @r4[i] @r5[i] @r6[i] @r7[i] @r8[i] @r9[i] @r10[i] @r11[i] @r12[i]
.endc
.end
